US08058045B2
tert-Butyl 3-((2-(5-cyanopyrazin-2-ylamino)-5-nitropyridin-4-ylamino)methyl)piperidine-1-carboxylate (265 mg, 0.583 mmol) was dissolved in ethanol (20 mL) and tin (II) chloride hydrate (658 mg, 2.92 mmol) was added. The suspension was heated for 30 min at 70° C. Solvents were removed by evaporation and the residue was dissolved in ethyl acetate and aqueous saturated sodium hydrogen carbonate. The mixture was filtered and the residue was washed thoroughly with ethyl acetate. The two phases of the filtrate were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried (Na2SO4) and solvent was removed by evaporation affording tert-butyl 3-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (139 mg, 56%). The crude product was used directly in the next step.

reactant | tert-Butyl 3-((2-(5-cyanopyrazin-2-ylamino)-5-nitropyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.583 mmol, 265 mg | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NCC1CN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C21H26N8O4
reactant | tin (II) chloride hydrate | 2.92 mmol, 658 mg | O.[Sn](Cl)Cl
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl 3-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 139 mg, 56% | NC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CN(CCC1)C(=O)OC(C)(C)C | C21H28N8O2
